US07939519B2
To a solution of 3-[(6-acetyl-2-chloro-pyridin-3-ylmethyl)-amino]-propionic acid tert-butyl ester (1 eq) in methanol is added O-(4-chloro-3-trifluoromethyl-benzyl)-hydroxylamine (1 eq) followed by the addition of acetic acid (0.05 eq). The mixture is stirred at room temperature for 5 hours. After concentration, the residue is purified by column chromatography to give 3-({2-chloro-6-[1-(4-cyclohexyl-3-trifluoromethyl-benzyloxyimino)-ethyl]-pyridin-3-ylmethyl}-amino)-propionic acid tert-butyl ester. MS: (ES+) 568.3 (M+1)+. The tert-butyl group is subsequently removed by treatment with TFA/DCM (1/1) at room temperature. The final compound 3-({2-chloro-6-[1-(4-cyclohexyl-3-trifluoromethyl-benzyloxyimino)-ethyl]-pyridin-3-ylmethyl}-amino)-propionic acid is purified by preparative LCMS. 1H NMR (400 MHz, CD3OD) δ 1.28-1.60 (m, 5H), 1.71-1.92 (m, 5H), 2.30 (s, 3H), 2.79 (t, 2H), 2.90 (m, 1H), 3.38 (t, 2H), 4.42 (s, 2H), 5.29 (s, 2H), 7.38 (d, 1H), 7.50-7.68 (m, 3H), 7.94 (s, 2H). MS: (ES+): 512.2 (M+1)+.

reactant | 3-[(6-acetyl-2-chloro-pyridin-3-ylmethyl)-amino]-propionic acid tert-butyl ester | 1 eq | C(C)(C)(C)OC(CCNCC=1C(=NC(=CC1)C(C)=O)Cl)=O | C15H21ClN2O3
reactant | O-(4-chloro-3-trifluoromethyl-benzyl)-hydroxylamine | 1 eq | ClC1=C(C=C(CON)C=C1)C(F)(F)F | C8H7ClF3NO
reactant | acetic acid | 0.05 eq | C(C)(=O)O | C2H4O2
solvent | methanol | CO | CH4O
product | 3-({2-chloro-6-[1-(4-cyclohexyl-3-trifluoromethyl-benzyloxyimino)-ethyl]-pyridin-3-ylmethyl}-amino)-propionic acid tert-butyl ester | C(C)(C)(C)OC(CCNCC=1C(=NC(=CC1)C(C)=NOCC1=CC(=C(C=C1)C1CCCCC1)C(F)(F)F)Cl)=O | C29H37ClF3N3O3
